US08058300B2
Step 2: (3-Methyl-5-{4′-[1-(5-oxo-2,5-dihydro-[1,2,4]oxadiazol-3-yl)-cyclopropyl]-biphenyl-4-yl}-isoxazol-4-yl)-carbamic acid (R)-1-phenyl-ethyl ester:
To (5-{4′-[1-(N-hydroxycarbamimidoyl)-cyclopropyl]-biphenyl-4-yl}-3-methyl-isoxazol-4-yl)-carbamic acid (R)-1-phenyl-ethyl ester (0.66 mmol) in CH2Cl2 (5 mL) was added triethylamine (0.19 mL, 1.32 mmol) and ethyl chloroformate (0.127 mL, 1.32 mmol), and the reaction was stirred overnight at room temperature. Additional triethylamine (0.19 mL, 1.32 mmol) was added, and the reaction was stirred for 6 hours. Additional triethylamine (0.19 mL, 1.32 mmol) was added, and the reaction was stirred until complete. The mixture was diluted with CH2Cl2 (20 mL) and washed with 10% aqueous citric acid, and then dried over MgSO4, filtered, and concentrated. The residue was dissolved in toluene (10 mL), and the solution was refluxed for 3 days. After concentrating, the crude material was purified by silica gel chromatography (0-100% EtOAc in hexanes) to give the title compound.

reactant | (5-{4′-[1-(N-hydroxycarbamimidoyl)-cyclopropyl]-biphenyl-4-yl}-3-methyl-isoxazol-4-yl)-carbamic acid (R)-1-phenyl-ethyl ester | 0.66 mmol | C1(=CC=CC=C1)[C@@H](C)OC(NC=1C(=NOC1C1=CC=C(C=C1)C1=CC=C(C=C1)C1(CC1)C(NO)=N)C)=O | C29H28N4O4
reactant | triethylamine | 1.32 mmol, 0.19 mL | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 1.32 mmol, 0.127 mL | ClC(=O)OCC | C3H5ClO2
reactant | triethylamine | 1.32 mmol, 0.19 mL | C(C)N(CC)CC | C6H15N
reactant | triethylamine | 1.32 mmol, 0.19 mL | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 20 mL | C(Cl)Cl | CH2Cl2
product | (3-Methyl-5-{4′-[1-(5-oxo-2,5-dihydro-[1,2,4]oxadiazol-3-yl)-cyclopropyl]-biphenyl-4-yl}-isoxazol-4-yl)-carbamic acid (R)-1-phenyl-ethyl ester | C1(=CC=CC=C1)[C@@H](C)OC(NC=1C(=NOC1C1=CC=C(C=C1)C1=CC=C(C=C1)C1(CC1)C=1NOC(N1)=O)C)=O | C30H26N4O5
